US06794402B2
To a stirred solution of 6-{trans-4-[3-(4-fluorophenyl)-propylamino]cyclohexyl}-3H-benzthiazol-2-one (0.24 g, 0.67 mmol) in MeOH (10 mL) containing H2O (0.5 mL) was added p-formaldehyde (0.1 g, 3.3 mmol). The reaction mixture was stirred for 3 hours. Sodium triacetoxyborohydride (0.2 g, 0.9 mmol) was added, and the mixture was stirred overnight. Solid NaOH was added until the solution became clear. The reaction mixture was concentrated under reduced pressure to give a yellow oil. Purification by flash chromatography (eluent 9.5:1:1 CH2Cl2:MeOH:NH4OH) gave 6-(trans-4-{[3-(4-fluorophenyl)-propyl]methylamino}cyclohexyl)-3H-benzthiazol-2-one (55 mg, 15%), as a pale yellow solid: mp 256-261° C.; IR (KBr): 2942, 1683, 1509 cm−1; 1H NMR (500 MHz, DMSO-d6): δ 7.41 (s, 1H), 7.31-7.03 (m, 6H), 3.29 (m, 2H), 3.01 (m, 2H), 2.70 (s, 3H), 2.64 (m, 2H), 2.11 (m, 1H), 2.08 (m, 1H), 1.99 (m, 2H), 1.87 (m, 2H), 1.98-1.61 (m, 4H); API-MS (m/z): 399 [M+H]+; calcd for C23H27FN2OS, 399.1906; found, 399.1909; HPLC: method A, 5.85 minutes (>99%); method B, 11.48 minutes (>99%); Anal. Calcd for C23H27FN2OS.HCl.0.75NaCl: C, 57.69; H, 5.89; N, 5.85. Found: C, 57.72; H, 5.96;N, 5.51.

reactant | 6-{trans-4-[3-(4-fluorophenyl)-propylamino]cyclohexyl}-3H-benzthiazol-2-one | 0.67 mmol, 0.24 g | FC1=CC=C(C=C1)CCCN[C@@H]1CC[C@H](CC1)C1=CC2=C(NC(S2)=O)C=C1 | C22H25FN2OS
reactant | H2O | 0.5 mL | O | H2O
reactant | Sodium triacetoxyborohydride | 0.9 mmol, 0.2 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | NaOH | [OH-].[Na+]
solvent | MeOH | 10 mL | CO | CH4O
product | 6-(trans-4-{[3-(4-fluorophenyl)-propyl]methylamino}cyclohexyl)-3H-benzthiazol-2-one | 55 mg, 15% | FC1=CC=C(C=C1)CCCN([C@@H]1CC[C@H](CC1)C1=CC2=C(NC(S2)=O)C=C1)C | C23H27FN2OS
